US09102673B2
Step 3: tert-butyl 3-(2-tert-butoxy-2-oxoethyl)-7-chloro-1H-pyrrolo[2,3-c]pyridine-1-carboxylate
To a solution of tert-butyl 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (500 mg, 1.3 mmol), bis-(tert-butyl-phosphine) palladium (67.5 mg, 0.13 mmol), and palladium acetate (7.4 mg, 0.003 mmol) in THF (10 mL) was added (2-tert-butoxy-2-oxoethyl)(chloro)zinc (6.6 mL, 3.3 mmol, 0.5 M in diethyl ether). The mixture was then heated to 50 C overnight, cooled to r.t. and quenched by addition of MeOH (1 mL). EtOAc was added and the solution was extracted with 5% KHSO4. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified on silica (gradient elution, 0-25% EtOAc/hexanes) to yield the title product (382 mg). HRMS (ESI) calc (M+H)+=367.1419. found 367.1422.

reactant | tert-butyl 7-chloro-3-iodo-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 1.3 mmol, 500 mg | ClC=1N=CC=C2C1N(C=C2I)C(=O)OC(C)(C)C | C12H12ClIN2O2
reactant | (2-tert-butoxy-2-oxoethyl)(chloro)zinc | 3.3 mmol, 0.5 M, 6.6 mL | C(C)(C)(C)OC(C[Zn]Cl)=O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | bis-(tert-butyl-phosphine) palladium | 0.13 mmol, 67.5 mg | [Pd].C(C)(C)(C)P.C(C)(C)(C)P
catalyst | palladium acetate | 0.003 mmol, 7.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 3-(2-tert-butoxy-2-oxoethyl)-7-chloro-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 382 mg | C(C)(C)(C)OC(CC1=CN(C2=C(N=CC=C21)Cl)C(=O)OC(C)(C)C)=O | C18H23ClN2O4
